US04211783
A solution of 50.5 g. of 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoic acid and 34.4 ml. of boron trifluoride etherate in 200 ml. of methanol is stirred under reflux for 44 hours, allowed to cool, and poured into 1.20 liters of ice-cold 5% aqueous sodium carbonate solution. The white solid is collected by filtration and recrystallized from benzene-ethanol to yield methyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate.

reactant | 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoic acid | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C26H32ClNO2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | methanol | CO | CH4O
product | methyl 4-[13-(4-chlorophenyl)tridec-12-ynylamino]benzoate | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)OC)C=C1 | C27H34ClNO2
